US08530486B2
2-phthalimidoethane-N,N-dimethylsulfonamide
2-Phthalimidoethanesulfonyl chloride (2.0 g) was used in a procedure similar to the one used for 2-phthalimidoethane-N-methylsulfonamide. Yield: 1.03 g (45%). 1H-NMR (CDCl3) δ (ppm) 7.87-7.79 (m, 2H), 7.75-7.66 (m, 2H), 4.11 (t, J=, 2H), 3.30 (t, J=Hz, 2H), 2.87 (s, 6H).

reactant | 2-Phthalimidoethanesulfonyl chloride | 2.0 g | C1(C=2C(C(N1CCS(=O)(=O)Cl)=O)=CC=CC2)=O | C10H8ClNO4S
reactant | 2-phthalimidoethane N-methylsulfonamide | C1(C=2C(C(N1CC)=O)=CC=CC2)=O.CNS(=O)=O
product | 2-phthalimidoethane N,N-dimethylsulfonamide | C1(C=2C(C(N1CC)=O)=CC=CC2)=O.CN(S(=O)=O)C | InChI=1S/C10H9NO2.C2H7NO2S/c1-2-11-9(12)7-5-3-4-6-8(7)10(11)13;1-3(2)6(4)5/h3-6H,2H2,1H3;6H,1-2H3
